US07576102B2
4-[4-(4-Trifluoromethoxy-phenoxy)-phenoxy]-piperidine hydrochloride:
To a solution of t-butyl-4-hydroxy-1-piperidinecarboxylate (0.40 g, 1.99 mmol) in anhydrous THF (8 mL) was added 4-(4-Trifluoromethoxy-phenoxy)-phenol (0.58 g, 2.65 mmol) and triphenylphosphine (0.63 g, 2.40 mmol). The resulting mixture was cooled to 0° C. Diisopropylazodicarboxylate (0.47 mL, 2.43 mmol) was added portionwise over a ten minute period. The reaction mixture was warmed to ambient temperature for an hour and then heated to 60° C. for 48 h. The solvent was removed in vacuo. The crude residue was purified by silica gel flash chromatography using hexane/EtOAc (gradient system) to give a yellow oil. To the oil was added 4 M HCl in dioxane (7 mL). The resulting mixture was stirred at ambient temperature 2 h. The solvent was removed under reduced pressure to obtain crude product. The residue was triturated with ether to afford the title compound (98 mg, 14%); 1H NMR (400 MHz, DMSO-d6); δ 1.85 (m, 2H), 2.10 (m, 2H), 3.06 (m, 2H), 3.23 (m, 2H), 4.61 (m, 1H), 7.02 (d, J=8.8 Hz, 2H), 7.06 (s, 3H), 7.35 (d, J=8.8 Hz, 2H), 8.92 (br s, 2H); MS (m/z) 354.4 (M+1); LC (97.5%).

reactant | t-butyl-4-hydroxy-1-piperidinecarboxylate | 1.99 mmol, 0.40 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | 4-(4-Trifluoromethoxy-phenoxy)-phenol | 2.65 mmol, 0.58 g | FC(OC1=CC=C(OC2=CC=C(C=C2)O)C=C1)(F)F | C13H9F3O3
reactant | triphenylphosphine | 2.40 mmol, 0.63 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropylazodicarboxylate | 2.43 mmol, 0.47 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | HCl | 4 M | Cl | ClH
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | 4-[4-(4-Trifluoromethoxy-phenoxy)-phenoxy]-piperidine hydrochloride | 98 mg, 14% | Cl.FC(OC1=CC=C(OC2=CC=C(OC3CCNCC3)C=C2)C=C1)(F)F | InChI=1S/C18H18F3NO3.ClH/c19-18(20,21)25-17-7-5-15(6-8-17)23-13-1-3-14(4-2-13)24-16-9-11-22-12-10-16;/h1-8,16,22H,9-12H2;1H
